
* IV test (triangular stimulus)
.include "C:/Users/Vidya/OneDrive/Desktop/Materials/Sem1/Neural networks/Voluntary Proj/Simmons Tunnel Barrier Model/Core Code/mem_simmons_pickett.subckt"

* instance (override params explicitly)
Xmem te 0 w dwdt MEM xinit=0.2 Ron=200 Roff=200k k=2e3 p=2

Vin te 0 PWL( 0 0  0.0025 1.2  0.0075 -1.2  0.01 0 )

.tran 10u 0.01

.control
set filetype=ascii
run
* IMPORTANT: write to local file name (Windows ngspice hates long paths)
wrdata iv.csv time v(te) i(vin) v(w) v(dwdt)
quit
.endc

.end
